US09399646B2
Step 2: (E)-Ethyl 3-(4-((E)-2-(4-(pyrimidin-5-yl)phenyl)-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylate
A mixture of (E)-ethyl 3-(4-((E)-2-(4-bromophenyl)-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylate (212 mg, 0.36 mmol), pyrimidin-5-ylboronic acid (67 mg, 0.54 mmol) and potassium carbonate (100 mg, 0.72 mmol) in toluene/ethanol (4:1, 5 mL) was degassed with nitrogen. Pd(PPh3)4 (41 mg, 0.036 mmol) was added and the mixture was heated to 90° C. overnight. The reaction was not done so additional pyrimidin-5-ylboronic acid (67 mg, 0.54 mmol), potassium carbonate (100 mg, 0.72 mmol) and Pd(PPh3)4 (41 mg, 0.036 mmol) were added, and the mixture was heated to 90° C. for an additional 4 h. The mixture was cooled to room temperature and poured into ethyl acetate. The organic phase was washed with brine (3×), dried over sodium sulfate, and purified by flash chromatography on silica gel eluting with 0 to 100% ethyl acetate/hexanes to afford 100 mg of the title compound as a yellow foam. 1H NMR (400 MHz, DMSO-d6): δ 9.16 (s, 1H), 9.15 (s, 2H), 8.13 (s, 1H), 7.76-7.67 (m, 4H), 7.48 (d, 1H), 7.42 (d, 2H), 7.35 (d, 2H), 7.26 (dd, 1H), 6.95 (d, 2H), 6.48 (d, 1H), 5.86 (dd, 1H), 4.14 (qt, 2H), 3.90 (m, 1H), 3.75 (m, 1H), 2.49-2.42 (m, 3H), 2.01 (m, 2H), 1.78 (m, 1H), 1.59 (m, 2H), 1.21 (t, 3H), 0.92 (t, 3H).

reactant | (E)-ethyl 3-(4-((E)-2-(4-bromophenyl)-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylate | 0.36 mmol, 212 mg | BrC1=CC=C(C=C1)/C(=C(/C=1C=C2C=NN(C2=CC1)C1OCCCC1)\C1=CC=C(C=C1)/C=C/C(=O)OCC)/CC | C33H33BrN2O3
reactant | pyrimidin-5-ylboronic acid | 0.54 mmol, 67 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | potassium carbonate | 0.72 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | pyrimidin-5-ylboronic acid | 0.54 mmol, 67 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | potassium carbonate | 0.72 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene ethanol | 5 mL | C1(=CC=CC=C1)C.C(C)O
catalyst | Pd(PPh3)4 | 0.036 mmol, 41 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 0.036 mmol, 41 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (E)-Ethyl 3-(4-((E)-2-(4-(pyrimidin-5-yl)phenyl)-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylate | 100 mg | N1=CN=CC(=C1)C1=CC=C(C=C1)/C(=C(/C=1C=C2C=NN(C2=CC1)C1OCCCC1)\C1=CC=C(C=C1)/C=C/C(=O)OCC)/CC | C37H36N4O3
